US07199154B2
Step 2: 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl carbonate
To a solution of 3.06 g of 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenol and 1.50 g of triphosgene in 20 mL of CH2Cl2 cooled at −78° C. was added 1.2 mL of pyridine. The reaction mixture was warmed to rt. After 15–30 min, the white suspension was transferred to a solution containing 5.95 g of (2Z)-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-ene-1,4-diol and 1.5 mL of pyridine in 20 mL of CH2Cl2 at rt. The reaction was stirred at rt for 15 min. The reaction was quenched with aqueous 1N HCl, extracted with EtOAc and washed with brine, dried over sodium sulfate, evaporated, and purified by flash chromatography (50–70% EtOAc/hexane) to afford 1.26 g of the title compound as a yellow oil.

reactant | 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenol | 3.06 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)O | C13H22O2Si
reactant | triphosgene | 1.50 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | (2Z)-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-ene-1,4-diol | 5.95 g | CS(=O)(=O)C1=CC=C(C=C1)/C(/CO)=C(/CO)\C1=CC=CC=C1 | C17H18O4S
reactant | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl carbonate | 1.26 g | C(OC1=CC(=CC=C1)CO[Si](C)(C)C(C)(C)C)(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C31H38O7SSi
